US04897490
5,5-Bis(2-fluoro-4-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal
A solution of 3,3-bis(2-fluoro-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal (1.35 g, 3.8 mmoles) and triphenylphosphoranylidene acetaldehyde (1.16 g, 3.8 mmoles) in benzene was heated at reflux for 3 hours. The solvent was removed and the residue purified by column chromatography on silica gel eluting with 1% (v/v) methanol in methylene chloride. The fractions containing material having Rf =0.9 [methanol-methylene chloride; 1:20 (v/v)] were combined and concentrated to give 1.3 g of the title compound; m.p.=88°-108° C.

reactant | 3,3-bis(2-fluoro-4-methylphenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 3.8 mmoles, 1.35 g | FC1=C(C=CC(=C1)C)C(=C(C=O)C1=NN=NN1C)C1=C(C=C(C=C1)C)F | C19H16F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 3.8 mmoles, 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,5-Bis(2-fluoro-4-methylphenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 1.3 g | FC1=C(C=CC(=C1)C)C(=C(C=CC=O)C1=NN=NN1C)C1=C(C=C(C=C1)C)F | C21H18F2N4O
